US04212994
A carboxylic acid is prepared by contacting an aqueous solution of the alkali metal or ammonium carboxylate with a liquid cation exchange agent dissolved in an organic solvent in which the carboxylic acid is substantially water immiscible. As an example, an aqueous solution of trisodium N-(2-hydroxyethyl)ethylenediaminetriacetate is contacted with di(2-ethylhexyl)phosphoric acid in kerosene to thereby form N-(2-hydroxyethyl)ethylenediaminetriacetic acid in the aqueous solution.

reactant | trisodium N-(2-hydroxyethyl)ethylenediaminetriacetate | C(CN(CC(=O)[O-])CC(=O)[O-])N(CCO)CC(=O)[O-].[Na+].[Na+].[Na+]
reactant | di(2-ethylhexyl)phosphoric acid | C(C)C(COP(OCC(CCCC)CC)(O)=O)CCCC | C16H35O4P
solvent | water | O | H2O
product | N-(2-hydroxyethyl)ethylenediaminetriacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CCO)CC(=O)O | C10H18N2O7
